US04276216
Triphenylmethane indicator (50 mg) is added to isopropylamine (9.15 ml, 0.065 moles) in anhydrous tetrahydrofuran (80 ml). The solution is cooled to 0° C. and a solution of n-butyllithium (2.34 m) in hexane (28.5 ml, 0.065 moles) is added carefully while stirring at 0°-5° C. The mixture is kept at 0° C. for 20 minutes and then cooled to -70° C. 6-Methyl-2-oxo-5-undecene (9.1 g, 0.05 moles, 60:40 E:Z mixture) is dissolved in anhydrous tetrahydrofuran (9.0 ml.) and added to the above solution of lithium diisopropylamide in tetrahydrofuran while stirring at -70° C. within 15 minutes (-70°-65° C.). To the resultant enolate solution is added immediately at -70° C. while stirring a freshly prepared and centrifuged solution of trimethylsilyl chloride (15 ml, ~0.12 moles) and triethylamine (4.0 ml, ~0.029 moles) in tetrahydrofuran (25 ml). The solution is kept at -70° C. for 1.5 hours. Solid sodium bicarbonate (10 g) is added. The solution is then allowed to come to -10° C., and a saturated aqueous sodium bicarbonate solution (60 ml) is added. The solution is then allowed to come to room temperature, the tetrahydrofuran layer is separated, and the aqueous layer is re-extracted with ether. The combined organic extract is washed with saturated aqueous chloride solution, dried with sodium sulfate, filtered, and evaporated in vacuo. Drying in high vacuo gives crude 6-methyl-2-trimethylsiloxy-undec-1,5-diene (13.75 g).

reactant | Triphenylmethane | C1(=CC=CC=C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16
reactant | isopropylamine | 0.065 moles, 9.15 ml | C(C)(C)N | C3H9N
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 0.065 moles, 28.5 ml | CCCCCC | C6H14
reactant | 6-Methyl-2-oxo-5-undecene | 0.05 moles, 9.1 g | CC(=CCCC(C)=O)CCCCC | C12H22O
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | trimethylsilyl chloride | ~0.12 moles, 15 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | ~0.029 moles, 4.0 ml | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | 10 g | C([O-])(O)=O.[Na+]
reactant | sodium bicarbonate | 60 ml | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 9.0 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 6-methyl-2-trimethylsiloxy-undec-1,5-diene | 13.75 g | CC(=CCCC(=C)O[Si](C)(C)C)CCCCC | C15H30OSi
